US05057614
A solution of 560 mg of 4-benzyloxybenzonitrile in 16 ml of THF and 0.2 ml of methanol, cooled to 0° C., was saturated with hydrogen chloride and kept at 4° C. for 16 hours. The precipitate was filtered off, washed with diethyl ether and dried to give 357 mg of methyl 4-benzyloxybenzimidate hydrochloride, m.p. 179°-180° C.

reactant | 4-benzyloxybenzonitrile | 560 mg | C(C1=CC=CC=C1)OC1=CC=C(C#N)C=C1 | C14H11NO
reactant | hydrogen chloride | Cl | ClH
reactant | THF | 16 ml | C1CCOC1 | C4H8O
solvent | methanol | 0.2 ml | CO | CH4O
product | methyl 4-benzyloxybenzimidate hydrochloride | 357 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(C(OC)=N)C=C1 | InChI=1S/C15H15NO2.ClH/c1-17-15(16)13-7-9-14(10-8-13)18-11-12-5-3-2-4-6-12;/h2-10,16H,11H2,1H3;1H
